US09260413B2
To a solution of 40.0 mg (0.118 mmol) 2-(3-hydroxyphenyl)-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one in 1 ml NMP was added 27.6 mg (0.118 mmol) 4-iodoanisole, 46.2 mg (0.142 mmol) Cs2CO3, 2.18 μl (0.012 mmol) 2,2,6,6-tetramethyl-3,5-heptanedione, and 5.85 mg (0.059 mmol) copper(I) iodide. The reaction mixture was heated to 180° C. for 30 min in microwave, diluted with 2 ml water, extracted with 10 ml EtOAc, and concentrated in vacuo. The oil was dissolved in 1 ml CH2Cl2, 1 ml TFA was added, and then concentrated in vacuo. Purification by mass-guided high throughput purification gave 10.0 mg (26% yield) of 5-hydroxy-2-[3-(4-methoxyphenoxy)phenyl]-3-methylpyrimidin-4(3H)-one. 1H NMR δ (ppm)(DMSO-d6): 7.50 (1 H, s), 7.45 (1 H, t, J=7.93 Hz), 7.25 (1 H, d, J=7.66 Hz), 7.09-7.02 (4 H, m), 6.98 (2 H, d, J=8.74 Hz), 3.75 (3 H, s), 2.54 (3 H, s). HRMS (ESI positive) calc M+H=325.1181. Found 325.11.

reactant | 2-(3-hydroxyphenyl)-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one | 0.118 mmol, 40.0 mg | OC=1C=C(C=CC1)C1=NC=C(C(N1C)=O)OCC1=CC=C(C=C1)OC | C19H18N2O4
reactant | 4-iodoanisole | 0.118 mmol, 27.6 mg | IC1=CC=C(C=C1)OC | C7H7IO
reactant | Cs2CO3 | 0.142 mmol, 46.2 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.012 mmol, 2.18 μl | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
solvent | water | 2 ml | O | H2O
catalyst | copper(I) iodide | 0.059 mmol, 5.85 mg | [Cu]I
product | 5-hydroxy-2-[3-(4-methoxyphenoxy)phenyl]-3-methylpyrimidin-4(3H)-one | 10.0 mg, 26% yield | OC=1C(N(C(=NC1)C1=CC(=CC=C1)OC1=CC=C(C=C1)OC)C)=O | C18H16N2O4
